US06090836
4. 3-methoxy-6-hydroxy-7-propyl-benz[4,5]isoxazole
A solution of 3-methoxy-6-benzyloxy-7-propyl benz-(4,5)-isoxazole (181 mg) in ethyl acetate (4 mL) was treated with 10% palladium on carbon catalyst (25 mg). The mixture was shaken under a hydrogen atmosphere (40 psi) for 3 hours. The mixture was filtered through Celite and concentrated to a solid. The product was used without further purification.

reactant | 3-methoxy-6-benzyloxy-7-propyl benz-(4,5)-isoxazole | 181 mg | COC1=NOC2=C1C=CC(=C2CCC)OCC2=CC=CC=C2 | C18H19NO3
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 25 mg | [Pd] | Pd
product | 3-methoxy-6-hydroxy-7-propyl-benz[4,5]isoxazole | COC1=NOC2=C1C=CC(=C2CCC)O | C11H13NO3
